US06451810B1
According to the general method of Example 50, 1-(4-aminobutyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine and indole-5-carboxylic acid were combined to provide N5-{4-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl}-5-indolecarboxamide as an off white solid. 1H NMR (300 MHz, DMSO-d6) δ11.31 (s, 1H), 8.34 (t, J=5.5 Hz, 1H), 8.06 (m, 2H), 7.63-7.58 (m, 2H), 7.42-7.38 (m, 3H), 7.22 (t, J=7.1 Hz, 1H), 6.67 (broad s, 2H), 6.50 (s, 1H), 4.58 (m, 2H), 3.81 (t, J=6.6 Hz, 2H), 3.34 (m, 2H), 3.25 (s, 3H), 3.21 (t, J=6.6 Hz, 2H), 1.89 (m, 2H), 1.72 (m,2H); MS (EI) m/e 456.2264 (456.2274 calcd for C26H28N6O2).

reactant | 1-(4-aminobutyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C17H23N5O
reactant | indole-5-carboxylic acid | N1C=CC2=CC(=CC=C12)C(=O)O | C9H7NO2
product | N5-{4-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl}-5-indolecarboxamide | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNC(=O)C=2C=C1C=CNC1=CC2)CCOC | C26H28N6O2
